Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Newly diagnosed leukemia 
 
Major Surgical or Invasive Procedure:
Bone Marrow Biopsy ___
CVL placement ___
Brochoscopy ___
Ct Guided Lung Biopsy ___
Bone Marrow Biopsy ___ and ___
Bronchoscopy ___

 
History of Present Illness:
This is a ___ male with a past medical history signicant for 
coronary artery disease and myelodysplastic syndrome who 
presented with a new diagnosis of leukemia. ___ had been in his 
usual state of health until three weeks prior to arrival when ___ 
developed a cough productive of yellow-green sputum and didn't 
feel quite as energetic as usual. ___ also began to experience 
fatigue and weight loss ___ pounds since late ___. ___ 
denied early satiety and said ___ felt hungry, but that his taste 
buds were "gone" and food tasted bad to him. ___ also described 
symptoms of odynophagia and sore throat. ___ was seen by an ENT 
who treated him with prednisone 40mg daily x5 days and 
clindamycin. ___ denied any dizziness or vision changes, but did 
endorse rhinorrhea and "sinus trouble". ___ denied chest pain, 
dyspnea, angina, nausea/vomiting/abdominal pain, diarrhea, 
constipation, bloody stools or dysuria.  
.
Oncologic History: 
___ has been followed by a hematologist/oncologist since his 
diagnosis with myelodysplastic syndrome in ___. Per Dr. 
___: "MDS [was] first diagnosed in ___ with bone 
marrow biopsy which per report was consistent with MDS with 
normal cytogenetics. ___ was seen intermittently, receiving 
procrit (missed several doses) and was recently given a platelet 
transfusion. Upon initial diagnosis ___ underwent CT torso and 
PET which revealed hilar, mediastinal, right inguinal and 
internal and external iliac lymphadenopathy. ___ underwent biopsy 
of the inguinal node in ___ which was read as reactive. ___ 
was seen [on the day of admission] in f/u by his oncologist and 
noted to have a WBC of 30 with 45% blast, plt count of 15 and 
Hct of 31.4. ___ underwent bone marrow biopsy but was referred to 
___ ED for further evaluation."  
 
In the ER here, his labwork was repeated and a CXR was performed 
which revealed a RUL infiltrate with cavitary components and a 
RLL density likely representing a calcified granuloma. ___ was 
transferred to ___ for further evaluation.

 
Past Medical History:
1)CAD s/p angioplasty in ___  
2)MDS since ___  
- required procrit weekly for last month or so  
- was transfused platelets for first time last week  

 
Social History:
___
Family History:
Coronary artery disease
 
Physical Exam:
Gen: Thin, cachectic male in NAD.  
HEENT: Sclera anicteric. PERRL, EOMI. OP erythematous, with 
petechiae and plaque-like areas, particularly in corners of his 
mouth. Some appear to have old blood on them. Poor dentition (no 
teeth).  
Neck: Supple, but with sizable LAD in submandibular and cervical 
chains bilaterally, but R>L.  
CV: RR, normal S1, S2. No m/r/g.  
Chest: Axillary LAD on left.  
Lungs: Crackles in RUL, otherwise clear. No wheezes or rhonchi.  

Abd: Soft, NTND. + BS. No appreciable hepatomegaly but spleen 
tip is palpable in LUQ.  
Ext: No edema. Ext cool, dry. Decreased hair on bottom ___ of 
calves bilaterally. 1+ DP pulses bilaterally, 2+ radial 
bilaterally.  
Neuro: CN II-XII grossly intact.  
.
At discharge vital signs T 98.2, BP 122/76, HR 79, RR 18, O2 Sat 
93% on RA.  Exam on discharge reveals nontender hickman in place 
in right chest without purulence, erythema, or signs of 
infection.  HEENT exam is edentulous but without lesions, blood, 
petechiae, or any other abnormalities.  Neck and axillary 
lymphadenopathy resolved at discharge.  Lung exam on discharge 
reveals crackles and diminshed sounds at left base but otherwise 
clear to auscultation bilaterally.  
 
Pertinent Results:
LABORATORY DATA
----------------
On Admission:
WBC-30.6* RBC-4.46* HGB-10.3* HCT-32.6* MCV-73* Plt 25
------NEUTS-3* LYMPHS-8* MONOS-6 OTHER-83*
HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-OCCASIONAL 
MACROCYT-OCCASIONAL MICROCYT-2+ POLYCHROM-1+ 
SPHEROCYT-OCCASIONAL
GLUCOSE-90 UREA N-13 CREAT-1.1 SODIUM-139 POTASSIUM-3.3 
CHLORIDE-101 TOTAL CO2-24 ANION GAP-17
ALT(SGPT)-18 AST(SGOT)-21 LD(LDH)-339* ALK PHOS-49 TOT BILI-0.6
CALCIUM-8.6 PHOSPHATE-2.8 MAGNESIUM-2.1 URIC ACID-11.1*
___ PTT-32.7 ___
___
.
On Discharge
WBC 4.3*, RBC 3.38*, HGB 9.2*, HCT 27.9*, MCV 82, Plt 41* 
----N 47*, B 4, L 37, Monos 10, Blasts 2*     
ANC 2190*
___ 17.0*, PTT 33.2, INR 1.5* 
Fibrinogen 673*
Gluc 71, BUN 4*, Cr 0.7, Na 141, K 3.9, Cl 104, HCO3 22
ALT 8, AST 15, LDH 264*, Alk Phos 64, T bili 0.3   
Alb 2.8*, Ca 8.4, Mg 4.4, Phos 1.6   
.
CT CHEST ___
IMPRESSION:
1. Right upper lobe consolidation associated with underlying 
focal emphysema/
confluent cysts and lymphadenopathy likely represents acute 
infection.
Additionally, multiple peribronchial nodular opacities may 
represent an
infectious etiology. However, it is difficult to exclude 
underlying
neoplasm/neoplastic infiltration and repeat CT folowing 
resolution of acute
issues is recommended.
2. Right inguinal and external iliac adenopathy.
3. Moderate-to-severe splenomegaly.
4. Pleural thickening/calcifications may be related to prior 
asbestos
exposure.
5. Hypoattenuating hepatic lesions are too small to 
characterize.

CT CHEST ___
IMPRESSION:
1. Mixed response of multifocal infections, including interval 
progression of
right upper lobe and left lower lobe consolidations, improvement 
and
cavitation of previously dominant right upper lobe consolidation 
and diffuse
right upper lobe peribronchial infiltration. This pattern 
suggests the ongoing
infection may be due to organisms other than those responding to 
ongoing
antibiotic treatment.
2. Slight interval decrease in extensive central 
lymphadenopathy.
3. Atherosclerotic coronary artery calcifications.
4. Splenomegaly.
.
CT Chest on ___
IMPRESSION: Mixed response of multifocal infection with minimal 
decrease in size in left lower lobe consolidation and right 
upper posterior consolidation and stable cavitary consolidation 
in the right apex. 
1.Stable centrilobular emphysema. 
2.Stable mediastinal lymphadenopathy. Minimal decrease in left 
hilar 
lymphadenopathy. 
3.Stable splenomegaly. 
4.Coronary artery calcifications.
.
CT Chest on ___
IMPRESSION: Continuous improvement. There is decrease in size in 
right upper lobe rounded posterior opacity and left lower lobe 
consolidation, stable cavitary consolidation in the apex with 
improved peribronchial consolidation associated with right 
apical bronchiectasis. Improved interlobular septal thickening, 
ground glass and reticulation in the 
lower lobe with improving lymphangitic stasis and maybe fluid 
overload. 
Stable mediastinal lymphadenopathy. Decrease in bilateral hilar 
lymphadenopathy. Coronary calcification. 
.
CT Chest on ___
IMPRESSION: 
1. No significant interval change in bilateral consolidative 
opacities and 
masses. 
2. Right apical cavitation is unchanged. Left lower lobe mass is 
unchanged 
in size, but has new areas of lucency which could suggest early 
cavitation 
versus bronchiectatic airways. 
.
BONE MARROW ASPIRATE AND CORE BIOPSY ___:
DIAGNOSIS:

Acute myelogenous leukemia with multilineage dysplasia, see 
note.

Note:  In a patient with a previous history of MDS ___ clinical 
history, slides not reviewed at ___, and trilineage 
dysplasia, the findings are consistent with acute myelogenous 
leukemia arising from a multilineage dysplasia.  The blast 
morphology is consistent with monoblastic leukemia (FAB M5).  
Correlation with cytogenetic studies is recommended. Slides 
reviewed at the clinical-hematology conference (___).

MICROSCOPIC DESCRIPTION

Peripheral Blood Smear:

The smear is adequate.  Erythrocytes are moderately decreased in 
number and show moderate anisocytosis with microcytic forms 
present.  There is minimal poikilocytosis with rare dacrocytes.  
Scatted nucleated red blood cells are noted.  The white blood 
cell count appears increased and is composed predominantly of a 
blast population which is intermediate to large size with scant 
cytoplasm, somewhat irregular nuclear contours, irregular 
chromatin and one to two prominent nucleoli.  Some of the cells  
have cytoplasmic vacuoles but lack granules or Auer rods.  A few 
mature monocytes as well as young promonocytes are also present. 
 Hypogranular and irregularly segmented neutrophils are seen.   
Platelet count appears decreased.  Large dysplastic platelets 
are seen.  Differential shows   3% neutrophils,  2% monocytes,  
and 95% blasts, which include promonocytic forms. 

Aspirate Smear:

The aspirate material is adequate for evaluation.  The majority 
of the aspirate material consists of monoblasts along with 
scattered monocytic precursors.  Of the remaining hematopoietic 
elements, the M:E ratio is <1:1.   Erythroid precursors are 
relatively decreased in number and reveal megaloblastic 
maturation with asymmetric nuclear budding and occasional forms 
with micronucleus.  Myeloid precursors appear relatively 
decreased in number and show left-shifted maturation with rare 
maturing elements.  Histiocytes with imbibed cellular elements 
are present.   Megakaryocytes are present.  A few dysplastic 
megakaryocytes including a rare "pawn ball form" is seen.  
Differential shows:  72% Blasts,  <1% Promyelocytes, <1% 
Myelocytes, 2% Metamyelocytes, 2% Bands/Neutrophils, 2% Plasma 
cells,  5% Lymphocytes, 16% Erythroid.

Biopsy Slides:

The biopsy material is adequate for evaluation   The marrow 
cellularity is >95% and consists predominantly of an 
interstitial  and diffuse infiltrate of  immature blasts 
(similar to that described above).  Hematopoietic elements 
including megakaryocytes (some with dysplastic features); 
Erythroid and scant mature myeloid forms are present, 
interspersed in the infiltrate.

BONE MARROW ASPIRATE AND CORE BIOPSY ___:

DIAGNOSIS:

MARKEDLY HYPOCELLULAR BONE MARROW (5%) WITH CHANGES CONSISTENT 
WITH CHEMOTHERAPY INDUCED ABLATION.

ONE PERITRABECULAR LYMPHOID AGGREGATE IS SEEN, MOST LIKELY OF A 
REACTIVE NATURE.

Note: The majority of bone marrow cellularity is represented by 
stromal cells, plasma cells and histiocytes. Immunoperoxidase 
studies on the core show that the lymphoid cells both 
interstitial and in aggregates are predominantly T cells and 
stain for CD3, CD5, and Bcl-2, but lack reactivity with CD10 and 
Bcl-6.

MICROSCOPIC DESCRIPTION

Peripheral Blood Smear:

The smear is adequate.  Erythrocytes show marked 
anisopoikilocytosis. Numerous abnormal forms are seen including 
schistocytes and burr cells. The white blood cell count appears 
markedly decreased and primarily represented by lymphocytes. 
Platelet count appears markedly decreased. Large forms are not 
seen. Differential shows 0% neutrophils, 0% bands, 4% monocytes, 
95% lymphocytes, 0% eosinophils, 1% blasts.

Aspirate Smear:

The aspirate material is suboptimal due to paucity of spicules. 
The M:E ratio is decreased. Erythroid precursors are markedly 
decreased. Myeloid precursors appear decreased. Megakaryocytes 
are decreased in numbers. Differential (300 cells) shows:  <1% 
Blasts,  0% Promyelocytes, 0% Myelocytes, 0% Metamyelocytes, 0% 
Bands/Neutrophils, 33% Plasma cells, 49% Lymphocytes, 16% 
Erythroid.

Clot Section and Biopsy Slides:

The biopsy material is adequate but small. The biopsy shows 
hypocellular bone marrow (5%) with virtually no maturing 
hematopoietic elements. The majority of the cells are 
represented by bone marrow stromal cells, plasma cells and 
histiocytes. Scant lymphocytes are noted in the background. 
Abundant intercellular eosinophilic debris are present 
consistent with ablative chemotherapy effect. Rare ___ 
bodies are noted. A small paratrabecular lymphoid aggregate 
comprised of small lymphocytes is present. There is an 
interstitial infiltrate of plasma cells occurring singly and in 
small clusters occupying 5% of marrow cellularity. Marrow clot 
section is submitted, contain few spicules for evaluation.

Bone marrow biopsy performed on day prior to discharge with 
results pending at D/C

  

 
Brief Hospital Course:
___ y.o male with past medical history of coronary artery disease 
and MDS presenting with a new diagnosis of leukemia. 
.  
1)AML: Mr. ___ presented with new leukemia determined to 
be AML that likely transformed from pre-existing MDS. ___ was 
initially treated with hydrea to reduce his white cell count. 
Further chemotherapy was postponed while patient received broad 
spectrum antibiotics for his lung infection. Infection improved 
and patient begun on Idarubicin and AraC on ___. Patient 
tolerated chemotherapy with few side effects. On day 14 of his 7 
and 3 chemotherapy regimen (___) his marrow was biopsied and 
found to be hypocellular. During the time that patient was 
neutropenic his lung infection began to worsen again as noted 
below. Pt's marrow was not repopulating well, which was 
attributed to the myelosuppresive effects of the bactrim ___ was 
on. His bactrim was discontinued on ___, but ANC still remained 
<100, Hct ~24, Plt ___. Another BM bx on ___ (day #35)showed 
7% blasts with cytogenetics that were initially read as recovery 
blasts and marrow effects of G-CSF.  Eventually nearly 40 days 
after beginning his chemotherapy Mr. ___ cytopenias 
began to resolve.  Unfortunately, the day after discontinuation 
of G-CSF ___ once again became neutropenic and repeat bone marrow 
biopsy was done in order to obtain results not under the 
influence of G-CSF.  After this test G-CSF was restarted and the 
patient was discharged after ___ once again had an ___>1000 with 
results of his bone marrow biopsy still pending and close follow 
up scheduled.  Mr ___ also had a lesion of his hand that 
was biopsied to rule out leukemia cutis but this was negative.  
.
2) Lung Infection: Patient presented with productive cough for 
nearly three weeks. CT  on ___ showed a "complex airspace 
process in the periphery of the right upper lobe with apparent 
cavitary components. A RUL bronchoscopy w/ BAL on ___, was 
remarkable for friable mucosa, but negative for growth or 
cytology. Sputum AFB neg x 3. Crypto, CMV, Nocardia, legionella, 
fungal, all neg. A CT guided biopsy on ___ did grow organisms 
consistent with nocardia sp.(final results and sensitivities 
still pending). Patient was initially treated with vancomycin 
cefepime that was broadened to vanc/zosyn and voriconazole when 
pt continued to spike fevers. Patient improved clinically while 
on vanco/zosyn/posaconazole, remaining afebrile and showing 
significant improvement in respiratory status prior to and 
during his induction chemotherapy. On ___ lung tissue 
preliminary results suggested a nocardia species. Zosyn was 
changed to Meropenem for improved Nocardia coverage. Around day 
16 patient began to spike daily fevers. A Chest CT on ___ 
showed significant worsening of lung lesions compared to 
previous Chest CT indicating either resistant or new organisms. 
ID recommended adding high dose Bactrim given known efficacy of 
this drug against Nocardia. Then on ___ CT chest was repeated 
showing significant worsening of lung lesions. Once Bactrim was 
started pt became afebrile. ___ CT chest showed minimal 
decrease in consolidations. Repeat BAL grew no organisms. Pt 
remained afebrile for almost 2 wks. Unfortunately, because the 
patient's counts were very slow in recovering and Bactrim is 
myelosuppressive ___ was switched to Ceftriaxone/Moxifloxacin on 
___ after final sensitivities came back on the patient's 
nocardia.  On ___ the patient spiked a fever again, but new CT 
chest showed continuous improvement of lung infection. ID noted 
that pt's aspergillus galactomanan returned positive suggested 
___ had two infections concurrently.  At this point Caspofungin 
was added to the Voriconazole the patient was already on for 
neutropenic fever.  Unfortunately, as neutropenia continued to 
lengthen the patient did not defervesce and continued to have 
fever spikes on most days.  Eventually, because of continued 
fevers ___ was switched back from 
ceftriaxone/moxifloxacin/voriconazole/Caspofungin to 
Meropenem/Moxifloxacin/Voriconazole/Caspofungin for better 
nocardia coverage then vancomycin and amikacin were eventually 
added for continued fevers.  Despite this extremely broad 
spectrum coverage the patient continued to spike until his 
granulocytes began to recover at which point ___ stopped having 
fevers. As ___ defervesced we removed a able to remove 
antibiotics and at discharge ___ was down to two drug oral 
regimen of Voriconazole and TMP/Sulfa.  With granulocyte 
recovery there was also some lessening of rhonchi and course 
breath sounds heard in the bilateral lower lungs so that there 
were just crackles and mildly decreased breath sounds in the 
left base at the time of discharge.  Patient continued to have 
productive cough at discharge but no shortness of breath or 
hypoxia.  Patient had defervesced for > 36 hours at time of 
discharge. 
.
3) C. Difficile: The patient had diarrhea that was tested and 
found to have C Difficile by stool culture on ___.  ___ was 
initially started on a course of Metronidazole that was switched 
to PO vancomycin because of poor improvement.  After switch to 
PO vancomycin the patient improved significantly and had much 
less stool output.  At time of discharge ___ was only having ___ 
loose stools/day.  ___ was continued on PO vancomycin at 
discharge given long period of broad antibiotic coverage and 
continued antibiotic pressure.  
.
4) CAD: Stable during this admission. No chest pain or shortness 
of breath at any time. Patient's outpatient medications 
including ASA, Lipitor and atenolol were held.  ___ was started 
on Metoprolol. Blood pressure was well controlled. ___ was 
restarted on his atenolol at discharge but Lipitor continued to 
be held fearing hepatic interactions with Voriconazole.  Aspirin 
was held at discharge given the patient was still 
thrombocytopenic
.
5) GERD: The patient was maintained on his outpatient Omeprazole 
and his GERD was stable during this admission.    
.
The patient was fed a neutropenic diet.  ___ ambulated for DVT 
prophylaxis.  ___ was full code.  

 
Medications on Admission:
atenolol 25mg PO Q day  
aspirin 81mg PO Q day  
lipitor 10mg PO Q day  
omeprazole 20mg PO BID  

 
Discharge Medications:
1. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
2. Voriconazole 200 mg Tablet Sig: 1.5 Tablets PO Q12H (every 12 
hours).
Disp:*90 Tablet(s)* Refills:*2*
3. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: Three (3) 
Tablet PO QID (4 times a day).
Disp:*360 Tablet(s)* Refills:*2*
4. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*2*
5. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
6. Neupogen 300 mcg/0.5 mL Syringe Sig: Three Hundred (300) mcg 
Injection once a day.
Disp:*10 syringes* Refills:*2*
7. Vancomycin 250 mg Capsule Sig: One (1) Capsule PO four times 
a day: Take this medication until instructed to stop it by Dr. 
___. .
Disp:*120 Capsule(s)* Refills:*2*
8. Heparin flushes
Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
Tunneled Access Line (e.g. ___), heparin dependent: Flush 
with 10 mL Normal saline followed by Heparin as above daily and 
PRN per lumen.  
9. Saline flushes
Please flush each port with 10 ml NS daily and PRN prior to 
heparin flush.  
10. Dressing changes
Please change ___ dressing weekly and PRN per critical care 
systems protocol.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
-------------------
Acute Myelocytic Leukemia

Secondary diagnoses:
--------------------
Nocardia and Aspergillus Pneumonias
Clostridium difficile
Coronary Artery Disease
Hypertension
Gastroesophageal reflux disease

 
Discharge Condition:
Persistently afebrile, good oxygen saturations on room air

 
Discharge Instructions:
You were admitted to the hospital with acute leukemia. You were 
also found to have a serious lung infection. We gave you some 
chemotherapy to control your leukemia and also began treating 
your lung infection with antibiotics. When you had improved from 
your lung infection we gave you a seven day course of 
chemotherapy. You had few side effects and responded well to the 
chemotherapy. While your blood counts were low, your lung 
infection worsened, and we had to give your more antibiotics and 
do a second bronchoscopy to sample your lung fluid.  We put you 
on broad spectrum antibiotics, but you continued to have fevers 
while your blood counts were low. We gave you a medication to 
help your blood counts recover more quickly, but it took some 
time.  As your counts started to increase you stopped having 
fevers and we were able to decrease the number of antibiotics 
you were taking.  You also developed a particular type of 
diarrhea in the hospital that can be a consequence of being on a 
lot of antibiotics.  This has improved as we had you on less 
antibiotics and your immune system recovered.   
.
Your medications have been changed.  We have started you on 
VORICONAZOLE and BACTRIM to cure your lung infection.  You have 
also been started on VANCOMYCIN, an oral medication to help 
eliminate the bacteria that caused your diarrhea.  In addition 
you have been started on NEUPOGEN, a shot to help keep your 
blood counts up and protect you from infection (do not fill this 
prescription or take this medication until instructed by your 
doctors).  Finally, you have also been started on TESSALON to 
help manage your cough. Otherwise continue to take all your 
medications as prescribed.  
.
Please keep all scheduled follow-up appointments as these are 
important to help maintain your health.  
.
Please call your oncologist if the following were to develop: 
chest pain, shortness of breath, palpatations, cough, dizziness, 
confusion, headache, abdomenal pain, diarrhea, nausea or 
vomiting, or swelling.  If any of these symptoms should become 
severe, please go your local ER.
 
Followup Instructions:
___